Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Seizres
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with a history of
post-traumatic epilepsy recently discharged from the neurology
service yesterday morning on ___ who presents with 3 reported
generalized tonic-clonic seizures at home later the same 
evening.
She was transferred from an OSH where she was given 4mg Ativan.
She stated that upon discharge yesterday she went home took a
shower and then upon exiting the shower suffered a seizure for
unknown duration of time that was unwitnessed. She then
subsequently suffered 2 more seizures. She told her family when
they came home and her family called EMS and had the patient
brought back. In the emergency department she complained of a
mild 3 out of 10 global headache. 

See her previous ___ (___) and discharge summary (___) for
details of her recent admission. During that admission she was
monitored on EEG and had several events which were non-epileptic
in nature, but none of these were generalized tonic-clonic
events. 

In the ED she was somnolent and unable to provide any additional
substantive history regarding the several hours she had been 
away
from the hospital since discharge several hours prior. 

 
Past Medical History:
Epilepsy 
Anxiety 
Depression

 
Social History:
___
Family History:
No family history of seizure. 
 
Physical Exam:
EXAM ON ADMISSION:

=== EXAM: 
-Vitals: T:98.4  BP:96/60  HR:100  RR:18  SaO2:96%

-General: Lethargic. Cooperative, NAD.
-HEENT: NC/AT. No scleral icterus noted. 
-Neck: Supple. 
-Cardiac: Well perfused. 
-Pulmonary: Breathing comfortably on room air.
-Abdomen: Soft, NT/ND.
-Extremities: No cyanosis, clubbing, or edema bilaterally. 
-Skin: Several scars on chest. 

NEUROLOGIC EXAM: (S/p 4mg Ativan)
-Mental Status: Limited exam due to somnolence. Able to answer
several HPI questions appropriately and followed commands to 
move
all 4 extremities. 

-Cranial Nerves:
II: PERRL 3 to 2mm. 
III, IV, VI: EOMI without nystagmus. 
VII: No facial droop, facial musculature symmetric.
VIII: Hearing grossly intact to speech.

-Motor: Normal bulk, tone throughout. Moved all 4 extremities
equally. 

-Sensory: Intact to light touch in all 4 extremities. 

-Coordination: Unable to assess. 

-Gait: Deferred. 

EXAM ON DISCHARGE:
Non-focal
 
Pertinent Results:
___ 08:59AM BLOOD WBC-5.5 RBC-4.34 Hgb-9.2* Hct-31.9* 
MCV-74* MCH-21.2* MCHC-28.8* RDW-19.8* RDWSD-47.3* Plt ___
___ 08:30AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG

IMAGING:

MRI BRAIN W AND WO CONTRAST:
EXAMINATION:  MR HEAD W AND W/O CONTRAST T9112 MR HEAD
 
INDICATION:  ___ year old woman with ?seizuresandPNES,rolesion// 
Rule out
lesion
TECHNIQUE:  Sagittal and axial T1 weighted imaging were 
performed. After
administration of  mL of Gadavist intravenous contrast, axial 
imaging was
performed with gradient echo, FLAIR, diffusion, and T1 
technique. Sagittal
MPRAGE imaging was performed and re-formatted in axial and 
coronal
orientations.
COMPARISON:  None.
FINDINGS: 
The study is degraded by artifact likely from dental hardware.  
Within this
limitation, there is no evidence of hemorrhage, edema, masses, 
mass effect,
midline shift or infarction.   The ventricles and sulci are 
normal in caliber
and configuration.  There is no abnormal enhancement after 
contrast
administration.
IMPRESSION: 
Within the limitation of a study degraded by artifact, no acute 
intracranial
process or mass lesion is seen.
 
Brief Hospital Course:
his is a ___ year old woman with epilepsy thought ___ trauma and 
PNES who was re-admitted just after she was discharged from 
___ for management of seizures. an OSH where she was given 4mg 
Ativan.
She stated that upon discharge yesterday she went home took a 
shower and then upon exiting the shower suffered a seizure for 
unknown duration of time that was unwitnessed. She then
subsequently suffered 2 more seizures. She told her family when 
they came home and her family called EMS and had the patient 
brought back.

At ___, we held keppra and zonisamide and captured 1 
convulsion event that was non-epileptic and similar to the 
convulsion event experienced at home. Patient and family were 
made aware of the diagnosis of non-epileptic psychogenic 
seizures and educated on the differences between the spells and 
the traumatic seizures she may have experienced several years 
ago. 

Transitional Issures:
- resume zonisamde 300 mg qhs
- resume 1000 mg keppra BID
- continue cefpodoxime 100 mg BID for total of 7 day course for 
UTI diagnosed on prior admission
- follow-up with Epilepsy on ___ as instructed for continuity 
of care
- continue home iron supplementation and follow-up with PCP via 
___ CARE ASSOCIATES ___ for management of 
iron-deficiency anemia
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 325 mg PO BID 
2. LevETIRAcetam 1000 mg PO BID 
3. Mirtazapine 15 mg PO QHS 
4. Zonisamide 300 mg PO QPM 
5. Amoxicillin 875 mg PO Q12H 
6. Cetirizine 10 mg PO DAILY 
7. Cefpodoxime Proxetil 100 mg PO Q12H 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 100 mg PO Q12H 
LAST DOSE ___ ___  
2.  Cetirizine 10 mg PO DAILY  
3.  Ferrous Sulfate 325 mg PO BID  
4.  LevETIRAcetam 1000 mg PO BID  
5.  Mirtazapine 15 mg PO QHS  
6.  Zonisamide 300 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Psychogenic Non-epileptic Convlusions

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were hospitalized due to concern for seizure for which you 
received Ativan prior to transfer to ___. We performed an EEG 
and caught several of your spells, which were not electrographic 
seizures. We continued your home zonisamide 300mg every evening 
and have continued your keppra 1000mg BID, which you may have 
been on at home. 

To learn more about psychogenic seizures, please visit the 
website: ___ 

In your prior hospitalization, your urine culture grew out E. 
coli suggesting that you have a urinary tract infection. Please 
continue to take cefpodoxime as prescribed for a total course of 
7 days. You need to take 1 tablet (100mg) twice per day. 

Please follow up with your primary care physician by calling 
___ HEALTHCARE ASSOCIATES ___  TO MAKE AN 
APPOINTMENT. You will also need to be seen in epilepsy clinic 
here at ___ as instructed below. 

It was a pleasure taking care of you, and we wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___